US07125896B2
a) 1-(2-Bromophenyl)-[3-(N-t-butyloxycarbonyl-N-methylamino)]pyrrolidine
The title compound was prepared from dibromobenzene and 3-(N-t-butyloxycarbonyl-N-methylamino)pyrrolidine as for Example 110 (a).

reactant | dibromobenzene | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | 3-(N-t-butyloxycarbonyl-N-methylamino)pyrrolidine | C(C)(C)(C)OC(=O)N(C)C1CNCC1 | C10H20N2O2
product | 1-(2-Bromophenyl)-[3-(N-t-butyloxycarbonyl-N-methylamino)]pyrrolidine | BrC1=C(C=CC=C1)N1CC(CC1)N(C)C(=O)OC(C)(C)C | C16H23BrN2O2
